US04675431
A mixture of 13.81 g. of diethyl phosphite, 20 ml. of water and 20 ml. of ethanol is reacted with a mixture of 8.91 g. (0.1 moles) of 3-methoxypropyl amine and 30 ml. of ethanol as described in Example 1. 18.8 g. of 3-methoxypropyl-ammoniumethyl phosphonate are obtained. Yield: 94.3%. nD30 =1,4440

reactant | diethyl phosphite | P(OCC)(OCC)[O-]
reactant | water | O | H2O
reactant | 3-methoxypropyl amine | 0.1 moles | COCCCN | C4H11NO
solvent | ethanol | C(C)O | C2H6O
product | 3-methoxypropyl-ammoniumethyl phosphonate | Yield: 94.3% | C(C)P([O-])([O-])=O.COCCC[NH3+].COCCC[NH3+] | InChI=1S/2C4H11NO.C2H7O3P/c2*1-6-4-2-3-5;1-2-6(3,4)5/h2*2-5H2,1H3;2H2,1H3,(H2,3,4,5)
